US05071844
(S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]-thiazepine
Sodium (55 mg) was added to a solution of naphthalene (340 mg) in DME (6 ml) and the mixture stirred at room temperature for one hour, treated with a solution of (S)-5,11-dihydro-5-(1-[4-methylphenylsulphonyl]-2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine (see Preparations 15 and 16) (200 mg) in DME (4 ml), stirred with ice-cooling for one hour, quenched with water and extracted with ethyl acetate. The organic extract was worked-up and purified as described in Preparation 13 to give the title compound as a colourless oil, (16 mg, 12%).

reactant | Sodium | 55 mg | [Na] | Na
reactant | naphthalene | 340 mg | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | (S)-5,11-dihydro-5-(1-[4-methylphenylsulphonyl]-2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine | 200 mg | CC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C25H26N2O2S2
solvent | DME | 6 ml | COCCOC | C4H10O2
solvent | DME | 4 ml | COCCOC | C4H10O2
product | (S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]-thiazepine | 16 mg, 12% | N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C18H20N2S
